US07728012B2
43.1 1-{4-[(Diethylamino)methyl]phenyl}ethanone
A solution of 12.1 g of 4-[diethylaminomethyl]benzonitrile in 40 ml of toluene was added to a solution of methylmagnesium bromide (43 ml of a 3 M solution in diethyl ether) in 40 ml of toluene, and the mixture was heated to reflux. Completion of the reaction was followed by pouring into ice-water, extracting with methyl tert-butyl ether, adjusting the aqueous phase to pH 11-12 by adding NaOH, and renewed extracting with methyl tert-butyl ether. The organic phase was dried and the solvent was evaporated. 12.1 g of the title compound were obtained.

reactant | 4-[diethylaminomethyl]benzonitrile | 12.1 g | C(C)N(CC)CC1=CC=C(C#N)C=C1 | C12H16N2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-{4-[(Diethylamino)methyl]phenyl}ethanone | 12.1 g | C(C)N(CC)CC1=CC=C(C=C1)C(C)=O | C13H19NO
